US08633211B2
Intermediate P Ureido-acetic acid tert-butyl ester
To a solution of glycine tert-butyl ester hydrochloride (15.13 g, 89.5 mmol) in water (12 ml), a warm solution of potassium cyanate (8.89 g, 107.4 mmol) in water (12 ml) is added in one portion. The clear solution is heated to 65° C. to 70° C. for 15 minutes before removing from heat and cooling to 0° C. in an ice bath. MeOH (approximately 5 ml) is added to dissolve the oil formed and the mixture allowed to sit at 0° C. The crystals formed are filtered, washed with ice water (3×2 ml) and dried to give the title compound; [M+H]+ 174

reactant | glycine tert-butyl ester hydrochloride | 89.5 mmol, 15.13 g | Cl.C(C)(C)(C)OC(CN)=O
reactant | potassium cyanate | 107.4 mmol, 8.89 g | [O-]C#N.[K+]
solvent | water | 12 ml | O | H2O
solvent | water | 12 ml | O | H2O
product | Ureido-acetic acid tert-butyl ester | C(C)(C)(C)OC(CNC(=O)N)=O | C7H14N2O3
